US08703941B2
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of tert-butyl N-(4-hydroxycyclohexyl)-N-methylcarbamate (447 mg, 1.95 mmol, 1.30 equiv) in anhydrous THF (30 mL), then sodium hydride (300 mg, 7.50 mmol, 5.00 equiv, 60% dispersion in mineral oil) was added and stirring for 20 min at room temperature under nitrogen. Then 12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene (316 mg, 1.50 mmol, 1.00 equiv) was added and stirred for 6 h at ambient temperature. The reaction mixture was quenched with NH4Cl (sat.) at 0° C., diluted with brine, extracted with EtOAc. The organic layer was washed with brine and dried over anhydrous sodium sulfate. After filtration and concentration, the residue was purified by a silica gel column with EA/PE (1:10-1:4) to provide tert-butyl N-methyl-N-(4-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yloxy]cyclohexyl)carbamate (450 mg, 74%) as a white solid. MS: (ES, m/z): 404 [M+H]+.

reactant | tert-butyl N-(4-hydroxycyclohexyl)-N-methylcarbamate | 1.95 mmol, 447 mg, 1.30 equiv | OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C12H23NO3
reactant | sodium hydride | 7.50 mmol, 300 mg, 5.00 equiv | [H-].[Na+]
reactant | 12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene | 1.50 mmol, 316 mg, 1.00 equiv | ClC=1N=CN=C2SC=3CCCC3C12 | C9H7ClN2S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl N-methyl-N-(4-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yloxy]cyclohexyl)carbamate | 450 mg, 74% | CN(C(OC(C)(C)C)=O)C1CCC(CC1)OC=1N=CN=C2SC=3CCCC3C12 | C21H29N3O3S
